US05310920
A mixture comprising 3.0 g of 1-(formylvinyl)-2-nitroiminoimidazolidine, 0.7 g of sodium hydride and 30 ml of DMF was stirred at 40° C. for 15 minutes. After this was cooled to room temperature, 3.2 g of 2-chloro-5-chloromethylpyridine was added thereto and stirred at 60° C for 2 hours. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried (with anhydrous MgSO4) and concentrated to give an oily residue. This was purified by column chromatography (silica gel, eluent: ethyl acetate) to give 2.3 g of 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(2-formylvinyl)imidazolidine.

reactant | 1-(formylvinyl)-2-nitroiminoimidazolidine | 3.0 g | C(=O)C=CN1C(NCC1)=N[N+](=O)[O-] | C6H8N4O3
reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | 2-chloro-5-chloromethylpyridine | 3.2 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | water | O | H2O
product | 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(2-formylvinyl)imidazolidine | 2.3 g | ClC1=NC=C(C=C1)CN1C(N(CC1)C=CC=O)=N[N+](=O)[O-] | C12H12ClN5O3
